US07435837B2
Treatment of (±)-[4,5-difluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (1.3 g, 3.02 mmol) with sodium azide (0.983 g, 15.11 mmol) generally according to the procedure described for intermediate 98 gave 0.82 g (90%) of (±)-[4,5-difluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl azide as a colorless oil. Rf=0.69 (silica, ethyl acetate:hexanes 1:4); 1H NMR (DMSO-d6) δH 7.25 (d, 2H); 7.14 (m, 3H); 5.06 (m, 1H); 3.67 (dd, 1H); 3.55 (dd, 1H); 3.46 (dd, 1H); 3.11 (dd, 1H); 2.15 (s, 3H).

reactant | (±)-[4,5-difluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 3.02 mmol, 1.3 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=C(C=C2C2=C(C=CC=C2)C)F)F | C23H20F2O4S
reactant | sodium azide | 15.11 mmol, 0.983 g | [N-]=[N+]=[N-].[Na+]
product | (±)-[4,5-difluoro-7-(2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl azide | 0.82 g, 90% | FC1=C(C=C(C2=C1CC(O2)CN=[N+]=[N-])C2=C(C=CC=C2)C)F | C16H13F2N3O
